Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
bilateral hip and thigh pain 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ M presents to ER w/acute onset of moderate to severe 
bilateral hip and thigh pain x3 weeks prior, symptoms persisted, 
w/exacerbation with ambulation, essentially pain free at rest, 
now with increasingly severe symptoms over the last 48 hours
 
Past Medical History:
HTN, DM, CAD  
PSH: none  

 
Social History:
Retired ___ from ___ where he resides. In ___, visiting 
family in the area. 
 
Physical Exam:
Alert and oriented x 3 
VS:BP  140/80      HR    64     
Carotids: 2+, no bruits or JVD
Resp: Lungs clear
Abd: Soft, non tender
Ext: Pulses: palpable throughout    Feet warm,  well perfused. 
 
Pertinent Results:
___ 05:20AM BLOOD WBC-11.3* RBC-3.36* Hgb-11.3* Hct-32.9* 
MCV-98 MCH-33.8* MCHC-34.5 RDW-13.3 Plt ___
___ 05:20AM BLOOD Glucose-140* UreaN-28* Creat-0.9 Na-140 
K-4.2 Cl-107 HCO3-23 AnGap-14
___ 05:20AM BLOOD Calcium-8.5 Phos-3.1# Mg-2.1

___ ABD/PELVIS
1.  3.6 cm focal infrarenal aortic dissection with fenestrations 
and contrast  entering the false lumen.  There is no evidence of 
rupture.  The age is indeterminate. 
2.  Severe atherosclerotic disease. 
3.  Multiple right renal cysts. 
4.  Small probable splenic hemangiomas. 
5.  Multiple pulmonary nodules, the largest of which measures 6 
mm.  
 
Brief Hospital Course:
___ M presenting w/acute onset of moderate to severe bilateral 
hip and thigh pain 3 weeks ago, symptoms persisted, 
w/exacerbation with ambulation, essentially
pain free at rest, now with increasingly severe symptoms over 
the last 48 hours.  Workup for this pain included a abd CT which 
showed probable focal infrarenal aortic dissection, measuring 
3.4 cm in diameter, which is incompletely evaluated on this 
non-contrast CT.  There is no surrounding stranding to suggest 
evidence of rupture. A CTA of the area showed 3.6 cm focal 
infrarenal aortic dissection with fenestrations and contrast  
entering the false lumen.  There is no evidence of rupture.  The 
age is indeterminate.

He was hypertensive to the 180s so an arterial line was placed 
and a nicardipine infusion was started with goal BP less than 
140. We were able to quickly discontinue the nicardipine and 
transistion him to an oral antihypertensive regiment. 
He remained hemodynamically stable with less pain with 
ambulation, tolerating a regular diet.   He was discharged to 
home in stable condition.  He will followup with his PCP when he 
returns to ___.  
 
Medications on Admission:
Plavix 75', lopressor 75', amlodipine 5', ramipril 10', 
atorvastatin 40', Januvia 100', Metformin 500'', Insuling 5U 
am/pm
 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*5 Tablet 
Refills:*0
2. Atorvastatin 40 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. HydrALAzine 75 mg PO Q6H 
RX *hydralazine 50 mg 1.5 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0
5. MetFORMIN (Glucophage) 500 mg PO BID 
6. Metoprolol Succinate XL 100 mg PO BID 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth twice daily 
Disp #*10 Tablet Refills:*0
7. Ramipril 10 mg PO BID 
RX *ramipril [Altace] 10 mg 1 capsule(s) by mouth twice daily 
Disp #*10 Capsule Refills:*0
8. Regular 5 Units Breakfast
Regular 5 Units Dinner
9. Acetaminophen 650 mg PO TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Infrarenal Aortic Dissection
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You presented to the ER secondary to moderate to severe 
bilateral hip and thigh pain that worsened with walking.  
Further investigation  with a CT scan showed an aortic 
dissection as the cause of  your pain.  Your blood pressure was 
very high.  We needed to increase the doses of your current 
medications and add a new medication called hydralazine (see 
attached medication list) to control your blood pressure. This 
is the major treatment for your dissection. 

Please follow up with your PCP as soon as possible. We have 
given you a 5 day supply of the new medication.   Your blood 
pressure must be closely monitored with goal BP < 140 systolic. 
 
Followup Instructions:
___